US07514419B2
To a mixture of 4-bromo-2-fluoroanisole (2.0 g, 9.70 mmol) and 2-propanol (1.2 g, 19.4 mmol) at room temperature was added 80% H2SO4 (10.0 mL). The reaction mixture was heated at 80° C. for 12 h, cooled to room temperature, quenched with ice (50 g) and extracted with ether (20 mL×2). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with 5% ethyl acetate in hexanes to afford 4-bromo-6-fluoro-2-iso-propylanisole (0.92 g, 38%): 1H NMR (300 MHz, CD3OD): δ 7.36 (d, J=10.5 Hz, 1H), 7.22 (d, J=10.5 Hz, 1H), 3.91 (s, 3H), 3.24 (m, 1H), 1.26 (d, J=6.6 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (5:95); Rf=0.50.

reactant | 4-bromo-2-fluoroanisole | 9.70 mmol, 2.0 g | BrC1=CC(=C(C=C1)OC)F | C7H6BrFO
reactant | 2-propanol | 19.4 mmol, 1.2 g | CC(C)O | C3H8O
reactant | H2SO4 | 10.0 mL | OS(=O)(=O)O | H2O4S
product | 4-bromo-6-fluoro-2-iso-propylanisole | 0.92 g, 38% | BrC1=CC(=C(C(=C1)F)OC)C(C)C | C10H12BrFO
